US07723333B2
2-tert-Butyl-5-phenyl-4-{[3-(pyridin-3-yloxy)propyl]amino}isothiazol-3(2H)-one 1,1-dioxide
A mixture of 4-[(3-bromopropyl)amino]-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.120 g, 0.29 mmol), 3-hydroxypyridine (0.028 g, 0.29 mmol) and K2CO3 (0.207 g, 1.49 mmol) in MeCN (2 mL) was heated in a microwave reactor at 140° C. for 30 mins. The solvent was evaporated and the residue was purified by silica gel column chromatography using a 35-85% EtOAc in hexane mixture as eluant, to give the title compound (0.056 g, 45%) as a solid. 1H NMR (500 MHz, CDCl3): δ 8.28-8.22 (m, 2H), 7.54-7.50 (m, 2H), 7.50-7.42 (m, 3H), 7.24-7.20 (m, 1H), 7.16-7.12 (m, 1H), 5.68 (t, 1H), 3.92 (t, 2H), 3.14-3.08 (m, 2H), 1.90-1.82 (m, 2H), 1.74 (s, 9H); 13C NMR (125 MHz, CDCl3): δ 159.8, 154.7, 142.8, 137.9, 135.2, 131.8, 129.9, 128.8, 125.2, 124.1, 121.3, 107.5, 66.3, 61.8, 42.1, 29.0, 27.8; Mass Spectrum: M+H+ 416.

reactant | 4-[(3-bromopropyl)amino]-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.29 mmol, 0.120 g | BrCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C16H21BrN2O3S
reactant | 3-hydroxypyridine | 0.29 mmol, 0.028 g | OC=1C=NC=CC1 | C5H5NO
reactant | K2CO3 | 1.49 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 2-tert-Butyl-5-phenyl-4-{[3-(pyridin-3-yloxy)propyl]amino}isothiazol-3(2H)-one 1,1-dioxide | 0.056 g, 45% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC=1C=NC=CC1)C1=CC=CC=C1)(=O)=O | C21H25N3O4S
